US07705042B2
b) 4-[3-(2,5-Dimethyl-pyrrol-1-yl)-4-nitro-phenyl]-piperazine-1-carboxylic acid tert-butyl ester
To a stirred solution of 1-(5-chloro-2-nitro-phenyl)-2,5-dimethyl-1H-pyrrole (73 mg, 0.29 mmol, as prepared in the previous step) in DMF (2 mL) was added piperazine-1-carboxylic acid tert-butyl ester (542 mg, 2.9 mmol) and the result was heated to 90° C. for 18 h. The reaction a diluted with EtOAc (50 mL), washed with H2O (2×25 mL), dried (Na2SO4) and concentrated in vacuo. The residue was chromtographed on a SPE column (5 g, SiO2) to afford 35 mg (30%) of the title compound as a brown solid. 1H-NMR (CDCl3; 400 MHz): δ 8.13 (d, 1H, J=9.3 Hz), 6.91-6.88 (m, 1H), 6.66 (s, 1H), 5.93 (s, 2H), 3.63-3.60 (m, 4H), 3.42-3.40 (m, 4H), 1.97 (s, 6H), 1.48 (s, 9H).

reactant | 1-(5-chloro-2-nitro-phenyl)-2,5-dimethyl-1H-pyrrole | ClC=1C=CC(=C(C1)N1C(=CC=C1C)C)[N+](=O)[O-] | C12H11ClN2O2
reactant | piperazine-1-carboxylic acid tert-butyl ester | 2.9 mmol, 542 mg | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 4-[3-(2,5-Dimethyl-pyrrol-1-yl)-4-nitro-phenyl]-piperazine-1-carboxylic acid tert-butyl ester | 35 mg, 30% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=C(C=C1)[N+](=O)[O-])N1C(=CC=C1C)C | C21H28N4O4
